US07030128B2
2-Bromo-5-methylpyridine (1.29 g, 7.5 mmol) was coupled to 3-tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine (3.8 mmol) by the method of Example 1. Purification by chromatography on silica gel eluting with dichloromethane containing 1% methanol, then crystallisation from toluene/isohexane, gave 3-(5-methylpyridin-2-yl)-7-trifluoromethyl-imidazo[1,2-α]pyrimidine as a yellow solid: δH (400 MHz, CDCl3) 10.48 (1H, d, J 7), 8.50-8.52 (1H, m), 8.46 (1H, s), 7.72 (1H, d, J 8), 7.61-7.65 (1H, m), 7.31 (1H, d, J 7); m/z (ES+) 279 (M++H).

reactant | 2-Bromo-5-methylpyridine | 7.5 mmol, 1.29 g | BrC1=NC=C(C=C1)C | C6H6BrN
reactant | 3-tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine | 3.8 mmol | C(CCC)[Sn](C1=CN=C2N1C=CC(=N2)C(F)(F)F)(CCCC)CCCC
product | 3-(5-methylpyridin-2-yl)-7-trifluoromethyl-imidazo[1,2-α]pyrimidine | CC=1C=CC(=NC1)C1=CN=C2N1C=CC(=N2)C(F)(F)F | C13H9F3N4
